US05958910
A mixture of 0.5 g of 4-(3,4-dichloro-phenyl)-thiazol-2-ylamine hydrobromide with 0.50 g of p-toluenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid and the solid which thereby separated was filtered off and dissolved in a mixture of 20 ml of ethanol and 20 ml of 2N sodium hydroxide solution. After the addition of 0.4 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. 0.33 g of N-[4-(3,4-dichloro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide was obtained as colorless crystals upon neutralization with concentrated hydrochloric acid.

reactant | 4-(3,4-dichloro-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.ClC=1C=C(C=CC1Cl)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 0.50 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(3,4-dichloro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.33 g | ClC=1C=C(C=CC1Cl)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C16H12Cl2N2O2S2
